US04033748
For example, 3-(3-aminopropyl)piperidine may be converted to a Schiff base with 1,5-di-(3-isopropylnorborn-2-yl)-3-pentanone, catalytically reduced, then the resulting amine selectively cyanoethylated on the ring nitrogen with acrylonitrile, followed by catalytic hydrogenation to furnish 1-(3-aminopropyl)-3-{3-[1,5-di-(3-isopropylnorborn-2-yl)-3-pentylamino]propyl}piperidine.

reactant | 3-(3-aminopropyl)piperidine | NCCCC1CNCCC1 | C8H18N2
reactant | 1,5-di-(3-isopropylnorborn-2-yl)-3-pentanone | C(C)(C)C1C(C2CCC1C2)CCC(CCC2C1CCC(C2C(C)C)C1)=O | C25H42O
reactant | acrylonitrile | C(C=C)#N | C3H3N
product | 1-(3-aminopropyl)-3-{3-[1,5-di-(3-isopropylnorborn-2-yl)-3-pentylamino]propyl}piperidine | NCCCN1CC(CCC1)CCCNC(CCC1C2CCC(C1C(C)C)C2)CCC2C1CCC(C2C(C)C)C1 | C36H67N3
